US07671080B2
5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (1-hydroxymethyicyclopentylmethyl)amide
5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (200 mg, 0.56 mmol), 1-hydroxymethyl-cyclopentanecarbonitrile (145 mg, 1.12 mmol), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (117 mg, 0.61 mmol) and 1-hydroxybenzotriazole hydrate (83 mg, 0.61 mmol) were stirred in DCM (20 ml) for 66 h at room temperature. The reaction was poured into water (25 ml) and diluted with DCM (25 ml). The organic layer was isolated using a hydrophobic filter tube and the DCM removed under reduced pressure and purified by semi-preparative HPLC followed by purification on neutral alumina giving the title compound (75 mg, 28%) as a glassy solid.

reactant | 5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid | 0.56 mmol, 200 mg | C(#N)C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C18H11F3N2O3
reactant | 1-hydroxymethyl-cyclopentanecarbonitrile | 1.12 mmol, 145 mg | OCC1(CCCC1)C#N | C7H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.61 mmol, 117 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.61 mmol, 83 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (1-hydroxymethyicyclopentylmethyl)amide | OCC1(CCCC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F | C25H24F3N3O3
